US06130217
2-[2-(Pyridin-3-yl)thiazol-4-yl]phenol
o-(Bromoacetyl)phenyl acetate (2.57 g, 10 mmol) in dry acetone (30 mL) was treated with thionicotinamide (1.38 g, 10 mmol). The mixture was refluxed 16 hours, cooled to about 20° C. at which point a precipitate formed (2.46 g). The precipitate was filtered and dried in vacuo. The precipitate was dissolved in MeOH (50 mL) and treated with 10% NaOH in H2O (20 mL) for 1 hour at about 20° C. to hydrolyze the acetate ester. The pH was adjusted to neutrality with 6N HCl while chilling on ice/H2O and the volume was reduced to about 35 mL in vacuo. After cooling to about 4° C., an orange solid precipitate formed, which was removed by filtration and dried in vacuo to constant mass to yield 36-50% product (LSIMS m/s 254 (MH+)).

reactant | o-(Bromoacetyl)phenyl acetate | 10 mmol, 2.57 g | C(C)(=O)OC1=C(C=CC=C1)C(CBr)=O | C10H9BrO3
reactant | thionicotinamide | 10 mmol, 1.38 g | C(C1=CN=CC=C1)(=S)N | C6H6N2S
solvent | acetone | 30 mL | CC(=O)C | C3H6O
product | 2-[2-(Pyridin-3-yl)thiazol-4-yl]phenol | 36-50% | N1=CC(=CC=C1)C=1SC=C(N1)C1=C(C=CC=C1)O | C14H10N2OS
